US09278931B2
B) N-[4-(trans-2-aminocyclopropyl)phenyl]-3-(trifluoromethyl)benzamide hydrochloride
tert-Butyl {trans-2-[4-({[3-(trifluoromethyl)phenyl]carbonyl}amino)phenyl]cyclopropyl}-carbamate (161 mg) was dissolved in 4N hydrochloric acid/ethyl acetate solution (2 mL), and the mixture was stirred at room temperature for 2 hr. The solvent was evaporated under reduced pressure to give the title compound (130 mg).

reactant | tert-Butyl {trans-2-[4-({[3-(trifluoromethyl)phenyl]carbonyl}amino)phenyl]cyclopropyl}-carbamate | 161 mg | FC(C=1C=C(C=CC1)C(=O)NC1=CC=C(C=C1)[C@H]1[C@@H](C1)NC(OC(C)(C)C)=O)(F)F | C22H23F3N2O3
reactant | hydrochloric acid ethyl acetate | 4N, 2 mL | Cl.C(C)(=O)OCC
product | N-[4-(trans-2-aminocyclopropyl)phenyl]-3-(trifluoromethyl)benzamide hydrochloride | 130 mg | Cl.N[C@H]1[C@@H](C1)C1=CC=C(C=C1)NC(C1=CC(=CC=C1)C(F)(F)F)=O | InChI=1S/C17H15F3N2O.ClH/c18-17(19,20)12-3-1-2-11(8-12)16(23)22-13-6-4-10(5-7-13)14-9-15(14)21;/h1-8,14-15H,9,21H2,(H,22,23);1H/t14-,15+;/m0./s1
